* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 5.254515e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((3.665953e-02)*u*u + (-2.902794e-01)*u + (-1.864860e+00)),2.131901e+01),2.630986e+02)}
.param L_a = {min(max(exp((-9.110015e-01)*u*u + (-1.662855e+01)*u + (-8.782411e+01)),4.746650e-07),6.464918e-06)}
.param R_pl = {min(max(exp((1.760269e+00)*u*u + (3.038930e+01)*u + (1.350895e+02)),6.188649e+01),2.331654e+05)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((2.446726e-04)*u*u + (4.626569e-03)*u + (2.212534e-02),2.983594e-04),7.121716e-04)}
.param G1 = {min(max((2.880639e-04)*u*u + (6.007249e-03)*u + (3.138137e-02),1.008784e-04),1.379550e-03)}
.param w1 = {min(max(exp((-2.979137e-03)*u*u + (-8.140992e-02)*u + (1.498373e+01)),5.121848e+06),5.502970e+06)}
.param G2 = {min(max((-4.902591e-06)*u*u + (-8.488233e-05)*u + (-3.667628e-04),-2.240087e-05),1.114471e-07)}
.param w2 = {min(max(exp((-6.224028e-01)*u*u + (-1.077614e+01)*u + (-2.583869e+01)),5.873518e+07),1.005000e+09)}
.param G3 = {min(max((-1.455445e-04)*u*u + (-2.519924e-03)*u + (-1.088818e-02),-6.650205e-04),3.308560e-06)}
.param w3 = {min(max(exp((4.502823e-01)*u*u + (7.796084e+00)*u + (5.440889e+01)),9.950249e+08),7.784833e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((-1.140090e-15)*u*u + (-2.064686e-14)*u + (1.450419e+01)),1.981182e+06),2.001044e+06)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-2.307344e-01)*u*u + (-4.549946e+00)*u + (-3.074978e+01)),1.377869e-04),2.081952e-04)}
.param gn1 = {min(max(exp((-3.371706e-02)*u*u + (3.863934e-01)*u + (5.259455e+00)),5.650656e-02),7.712347e-01)}
.param gn2 = {min(max(exp((-3.094778e-02)*u*u + (4.347710e-01)*u + (4.030155e+00)),1.354226e-02),1.827190e-01)}
.param gn3 = {min(max(exp((-4.447931e-02)*u*u + (1.981990e-01)*u + (1.686397e+00)),3.447362e-03),4.917963e-02)}
.param gn4 = {min(max(exp((3.159275e-02)*u*u + (1.515736e+00)*u + (6.486855e+00)),1.990087e-03),2.011186e-02)}
.param gn5 = {min(max(exp((-1.434085e+00)*u*u + (-2.397227e+01)*u + (-1.045557e+02)),2.105547e-06),1.257523e-02)}
.param gn6 = {min(max(exp((-6.551100e+00)*u*u + (-1.184727e+02)*u + (-5.442632e+02)),1.808830e-13),1.779071e-04)}
.param vreg = {min(max((6.503621e-05)*u*u + (-3.958333e-03)*u + (4.844574e-01),5.216963e-01),5.349650e-01)}
.param COUT=4.740337e-10 ESR=2.804111e+01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-2.258581e-02,1.000000e-06,-6.431262e-03,1.300000e-05,-3.058341e-03,2.500000e-05,-1.056641e-03,3.700000e-05,3.768169e-04,4.900000e-05,1.499460e-03,6.100000e-05,2.425398e-03,7.300000e-05,3.215349e-03,8.500000e-05,3.905528e-03,9.700000e-05,4.519303e-03,1.090000e-04,5.072646e-03,1.210000e-04,5.576966e-03,1.330000e-04,6.040700e-03,1.450000e-04,6.470270e-03,1.570000e-04,6.870675e-03,1.690000e-04,7.245887e-03,1.810000e-04,7.599114e-03,1.930000e-04,7.932983e-03,2.050000e-04,8.249678e-03,2.170000e-04,8.551028e-03,2.290000e-04,8.838585e-03,2.410000e-04,9.113676e-03,2.530000e-04,9.377443e-03,2.650000e-04,9.630879e-03,2.770000e-04,9.874851e-03,2.890000e-04,1.011012e-02,3.010000e-04,1.033736e-02,3.130000e-04,1.055716e-02,3.250000e-04,1.077007e-02,3.370000e-04,1.097655e-02,3.490000e-04,1.117704e-02,3.610000e-04,1.137193e-02,3.730000e-04,1.156156e-02,3.850000e-04,1.174626e-02,3.970000e-04,1.192631e-02,4.090000e-04,1.210198e-02,4.210000e-04,1.227352e-02,4.330000e-04,1.244115e-02,4.450000e-04,1.260507e-02,4.570000e-04,1.276547e-02,4.690000e-04,1.292254e-02,4.810000e-04,1.307642e-02,4.930000e-04,1.318141e-02,5.010000e-04,1.342775e-02,5.210000e-04,1.366659e-02,5.410000e-04,1.389846e-02,5.610000e-04,1.412385e-02,5.810000e-04,1.434318e-02,6.010000e-04,1.455686e-02,6.210000e-04,1.476523e-02,6.410000e-04,1.496863e-02,6.610000e-04,1.516733e-02,6.810000e-04,1.536162e-02,7.010000e-04,1.555174e-02,7.210000e-04,1.573792e-02,7.410000e-04,1.592036e-02,7.610000e-04,1.609926e-02,7.810000e-04,1.627479e-02,8.010000e-04,1.644712e-02,8.210000e-04,1.661642e-02,8.410000e-04,1.678280e-02,8.610000e-04,1.694642e-02,8.810000e-04,1.710740e-02,9.010000e-04,1.726585e-02,9.210000e-04,1.742188e-02,9.410000e-04,1.757559e-02,9.610000e-04,1.772708e-02,9.810000e-04,1.787645e-02,1.001000e-03,1.802376e-02,1.021000e-03,1.816912e-02,1.041000e-03,1.831258e-02,1.061000e-03,1.845422e-02,1.081000e-03,1.859412e-02,1.101000e-03,1.873233e-02,1.121000e-03,1.886891e-02,1.141000e-03,1.900393e-02,1.161000e-03,1.913743e-02,1.181000e-03,1.926947e-02,1.201000e-03,1.940010e-02,1.221000e-03,1.952937e-02,1.241000e-03,1.965732e-02,1.261000e-03,1.978399e-02,1.281000e-03,1.990942e-02,1.301000e-03,2.003366e-02,1.321000e-03,2.015675e-02,1.341000e-03,2.027870e-02,1.361000e-03,2.039957e-02,1.381000e-03,2.051939e-02,1.401000e-03,2.063818e-02,1.421000e-03,2.075597e-02,1.441000e-03,2.087280e-02,1.461000e-03,2.098869e-02,1.481000e-03,2.110368e-02,1.501000e-03,2.121777e-02,1.521000e-03,2.133101e-02,1.541000e-03,2.144341e-02,1.561000e-03,2.155500e-02,1.581000e-03,2.166580e-02,1.601000e-03,2.177582e-02,1.621000e-03,2.188510e-02,1.641000e-03,2.199365e-02,1.661000e-03,2.210149e-02,1.681000e-03,2.220864e-02,1.701000e-03,2.231511e-02,1.721000e-03,2.242093e-02,1.741000e-03,2.252611e-02,1.761000e-03,2.263066e-02,1.781000e-03,2.273461e-02,1.801000e-03,2.283797e-02,1.821000e-03,2.294075e-02,1.841000e-03,2.304296e-02,1.861000e-03,2.314463e-02,1.881000e-03,2.324576e-02,1.901000e-03,2.334637e-02,1.921000e-03,2.344647e-02,1.941000e-03,2.354607e-02,1.961000e-03,2.364518e-02,1.981000e-03,2.374382e-02,2.001000e-03,2.384200e-02,2.021000e-03,2.393972e-02,2.041000e-03,2.403701e-02,2.061000e-03,2.413386e-02,2.081000e-03,2.423030e-02,2.101000e-03,2.432632e-02,2.121000e-03,2.442195e-02,2.141000e-03,2.451718e-02,2.161000e-03,2.461203e-02,2.181000e-03,2.470650e-02,2.201000e-03,2.480061e-02,2.221000e-03,2.489437e-02,2.241000e-03,2.498778e-02,2.261000e-03,2.508084e-02,2.281000e-03,2.517358e-02,2.301000e-03,2.526599e-02,2.321000e-03,2.535809e-02,2.341000e-03,2.544987e-02,2.361000e-03,2.554136e-02,2.381000e-03,2.563255e-02,2.401000e-03,2.572345e-02,2.421000e-03,2.581407e-02,2.441000e-03,2.590442e-02,2.461000e-03,2.599450e-02,2.481000e-03,2.608431e-02,2.501000e-03,2.617387e-02,2.521000e-03,2.626319e-02,2.541000e-03,2.635226e-02,2.561000e-03,2.644109e-02,2.581000e-03,2.652969e-02,2.601000e-03,2.661806e-02,2.621000e-03,2.670622e-02,2.641000e-03,2.679415e-02,2.661000e-03,2.688188e-02,2.681000e-03,2.696941e-02,2.701000e-03,2.705673e-02,2.721000e-03,2.714386e-02,2.741000e-03,2.723080e-02,2.761000e-03,2.731756e-02,2.781000e-03,2.740414e-02,2.801000e-03,2.749054e-02,2.821000e-03,2.757677e-02,2.841000e-03,2.766284e-02,2.861000e-03,2.774874e-02,2.881000e-03,2.783449e-02,2.901000e-03,2.792009e-02,2.921000e-03,2.800553e-02,2.941000e-03,2.809084e-02,2.961000e-03,2.817600e-02,2.981000e-03,2.826103e-02,3.001000e-03,2.834593e-02,3.021000e-03,2.843069e-02,3.041000e-03,2.851534e-02,3.061000e-03,2.859986e-02,3.081000e-03,2.868427e-02,3.101000e-03,2.876857e-02,3.121000e-03,2.885275e-02,3.141000e-03,2.893684e-02,3.161000e-03,2.902082e-02,3.181000e-03,2.910470e-02,3.201000e-03,2.918849e-02,3.221000e-03,2.927218e-02,3.241000e-03,2.935579e-02,3.261000e-03,2.943932e-02,3.281000e-03,2.952276e-02,3.301000e-03,2.960613e-02,3.321000e-03,2.968942e-02,3.341000e-03,2.977265e-02,3.361000e-03,2.985580e-02,3.381000e-03,2.993889e-02,3.401000e-03,3.002192e-02,3.421000e-03,3.010489e-02,3.441000e-03,3.018780e-02,3.461000e-03,3.027066e-02,3.481000e-03,3.035348e-02,3.501000e-03,3.043624e-02,3.521000e-03,3.051897e-02,3.541000e-03,3.060165e-02,3.561000e-03,3.068429e-02,3.581000e-03,3.076690e-02,3.601000e-03,3.084948e-02,3.621000e-03,3.093203e-02,3.641000e-03,3.101455e-02,3.661000e-03,3.109705e-02,3.681000e-03,3.117952e-02,3.701000e-03,3.126198e-02,3.721000e-03,3.134443e-02,3.741000e-03,3.142686e-02,3.761000e-03,3.150928e-02,3.781000e-03,3.159169e-02,3.801000e-03,3.167409e-02,3.821000e-03,3.175650e-02,3.841000e-03,3.183890e-02,3.861000e-03,3.192131e-02,3.881000e-03,3.200372e-02,3.901000e-03,3.208614e-02,3.921000e-03,3.216857e-02,3.941000e-03,3.225101e-02,3.961000e-03,3.233347e-02,3.981000e-03,3.241594e-02,4.001000e-03,3.249843e-02,4.021000e-03,3.258095e-02,4.041000e-03,3.266349e-02,4.061000e-03,3.274605e-02,4.081000e-03,3.282865e-02,4.101000e-03,3.291128e-02,4.121000e-03,3.299394e-02,4.141000e-03,3.307663e-02,4.161000e-03,3.315937e-02,4.181000e-03,3.324215e-02,4.201000e-03,3.332496e-02,4.221000e-03,3.340783e-02,4.241000e-03,3.349074e-02,4.261000e-03,3.357370e-02,4.281000e-03,3.365671e-02,4.301000e-03,3.373978e-02,4.321000e-03,3.382290e-02,4.341000e-03,3.390608e-02,4.361000e-03,3.398932e-02,4.381000e-03,3.407262e-02,4.401000e-03,3.415599e-02,4.421000e-03,3.423942e-02,4.441000e-03,3.432293e-02,4.461000e-03,3.440650e-02,4.481000e-03,3.449015e-02,4.501000e-03,3.457387e-02,4.521000e-03,3.465767e-02,4.541000e-03,3.474155e-02,4.561000e-03,3.482552e-02,4.581000e-03,3.490956e-02,4.601000e-03,3.499369e-02,4.621000e-03,3.507791e-02,4.641000e-03,3.516221e-02,4.661000e-03,3.524661e-02,4.681000e-03,3.533110e-02,4.701000e-03,3.541569e-02,4.721000e-03,3.550038e-02,4.741000e-03,3.558516e-02,4.761000e-03,3.567005e-02,4.781000e-03,3.575503e-02,4.801000e-03,3.584013e-02,4.821000e-03,3.592533e-02,4.841000e-03,3.601064e-02,4.861000e-03,3.609606e-02,4.881000e-03,3.618160e-02,4.901000e-03,3.626725e-02,4.921000e-03,3.635301e-02,4.941000e-03,3.643890e-02,4.961000e-03,3.652490e-02,4.981000e-03,3.661103e-02,5.001000e-03,3.669728e-02,5.021000e-03,3.678366e-02,5.041000e-03,3.687017e-02,5.061000e-03,3.695680e-02,5.081000e-03,3.704357e-02,5.101000e-03,3.713047e-02,5.121000e-03,3.721751e-02,5.141000e-03,3.730468e-02,5.161000e-03,3.739199e-02,5.181000e-03,3.747944e-02,5.201000e-03,3.756704e-02,5.221000e-03,3.765478e-02,5.241000e-03,3.774266e-02,5.261000e-03,3.783069e-02,5.281000e-03,3.791888e-02,5.301000e-03,3.800721e-02,5.321000e-03,3.809570e-02,5.341000e-03,3.818434e-02,5.361000e-03,3.827313e-02,5.381000e-03,3.836209e-02,5.401000e-03,3.845121e-02,5.421000e-03,3.854048e-02,5.441000e-03,3.862992e-02,5.461000e-03,3.871953e-02,5.481000e-03,3.880930e-02,5.501000e-03,3.889924e-02,5.521000e-03,3.898935e-02,5.541000e-03,3.907963e-02,5.561000e-03,3.917008e-02,5.581000e-03,3.926071e-02,5.601000e-03,3.935152e-02,5.621000e-03,3.944250e-02,5.641000e-03,3.953366e-02,5.661000e-03,3.962500e-02,5.681000e-03,3.971653e-02,5.701000e-03,3.980824e-02,5.721000e-03,3.990014e-02,5.741000e-03,3.999222e-02,5.761000e-03,4.008450e-02,5.781000e-03,4.017696e-02,5.801000e-03,4.026962e-02,5.821000e-03,4.036247e-02,5.841000e-03,4.045551e-02,5.861000e-03,4.054876e-02,5.881000e-03,4.064220e-02,5.901000e-03,4.073584e-02,5.921000e-03,4.082968e-02,5.941000e-03,4.092372e-02,5.961000e-03,4.101797e-02,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.075803e-09        $ corner 19.71 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 5.241368e-10        $ corner 303.7 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 3.282421e-11        $ corner 4849 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 2.382300e-13        $ corner 6.681e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 1.123552e-13        $ corner 1.417e+06 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 1.053495e-14        $ corner 1.511e+07 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

